US20010041797A1
TRANS-2-HYDROXYMETHYL-5-ACETOXY-1,3-OXATHIOLANE
Sodium borohydride (27 mg, 0.708 mmol) was added to a magnetically stirred solution of trans-2-carboethoxy-5-acetoxy-1,3-oxathiolane (52 mg, 0.236 mmol) in methanol (1 mL) at 0° C. under an argon atmosphere. The resultant solution was stirred for 25 minutes at 0° C. The reaction was quenched with 2 drops of saturated ammonium chloride solution followed by dilution with diethyl ether (4 mL). This mixture was stirred at room temperature for 15 minutes and then was dried over anhydrous magnesium sulphate. The drying agent was removed by suction filtration and the filtrate was concentrated under reduced pressure. The crude product obtained was subjected to column chromatography (50% EtOAc-hexane) to afford 21 mg (50%) of the title compound.

reactant | Sodium borohydride | 0.708 mmol, 27 mg | [BH4-].[Na+]
reactant | trans-2-carboethoxy-5-acetoxy-1,3-oxathiolane | 0.236 mmol, 52 mg | C(=O)(OCC)[C@@H]1O[C@H](CS1)OC(C)=O | C8H12O5S
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | methanol | 1 mL | CO | CH4O
product | TRANS-2-HYDROXYMETHYL-5-ACETOXY-1,3-OXATHIOLANE | 21 mg, 50% | OC[C@@H]1O[C@H](CS1)OC(C)=O | C6H10O4S
